US07820680B2
Step 5: N,N-dimethyl [1-(4-fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetamide
To a solution of [1-(4-fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetic acid (0.8 g, 2.0 mmol) in THF (30 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (2.07 g, 4.68 mmol) and dimethylamine (2.0 M in THF, 2.34 mL, 4.68 mmol). The reaction was stirred overnight. The reaction mixture was then diluted with dichloromethane, washed with aqueous hydrochloric acid, brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography with silica gel using hexanes and ethyl acetate as eluents to give the title compound. 1H NMR (400 MHz, CDCl3) δ 7.23-7.38 (m, 7H), 7.01 (t, J=8.6 Hz, 2H), 5.0-5.24 (m, 3H), 4.45-4.60 (m, 1H), 3.88-4.26 (m, 4H), 3.02-3.20 (m, 1H), 2.62-2.95 (m, 6H), 2.42-2.62 (m, 1H), 2.24 (d, J=15.8 Hz, 1H).

reactant | [1-(4-fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetic acid | 2.0 mmol, 0.8 g | FC1=CC=C(CN2C(CN(CC2=O)C(=O)OCC2=CC=CC=C2)CC(=O)O)C=C1 | C21H21FN2O5
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 4.68 mmol, 2.07 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | dimethylamine | 4.68 mmol, 2.0 M, 2.34 mL | CNC | C2H7N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N-dimethyl [1-(4-fluorobenzyl)-4-(benzyloxycarbonyl)-6-oxo-piperazin-2-yl]acetamide | CN(C(CC1N(C(CN(C1)C(=O)OCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)F)=O)C | C23H26FN3O4
